US07915267B2
1-(3′-{[(1-trityl-1H-1,2,4-triazol-3-yl)oxy]methyl}biphenyl-3-yl)methanamine
By a method similar to that in Reference Example 20 and using, instead of 2-[(2-{[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]thio}ethyl)oxy]pyridine-4-carbonitrile, 3′-{[(1-trityl-1H-1,2,4-triazol-3-yl)oxy]methyl}biphenyl-3-carbonitrile obtained in Reference Example 134, the title compound was obtained as a colorless oil (1.12 mg, 74%).

reactant | 2-[(2-{[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]thio}ethyl)oxy]pyridine-4-carbonitrile | C1(=CC=CC=C1)C(N1N=C(N=C1)SCCOC1=NC=CC(=C1)C#N)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H23N5OS
reactant | 3′-{[(1-trityl-1H-1,2,4-triazol-3-yl)oxy]methyl}biphenyl-3-carbonitrile | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=C(N=C1)OCC=1C=C(C=CC1)C1=CC(=CC=C1)C#N | C35H26N4O
product | 1-(3′-{[(1-trityl-1H-1,2,4-triazol-3-yl)oxy]methyl}biphenyl-3-yl)methanamine | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=C(N=C1)OCC=1C=C(C=CC1)C1=CC(=CC=C1)CN | C35H30N4O
